US07989461B2
3-Bromo-2-methylthieno[2,3-c]pyridine-N-Oxide (0.500 g, 2.05 mmol) was dissolved in chloroform (10 mL) and treated with phosphorous oxychloride (0.955 ml, 10.2 mmol). The reaction was heated to 70° C. while stirring. After 3 hours, the volatiles were removed in vacuo and the residual phosphorous oxychloride was azeotroped with toluene. The resulting residue was taken up in DCM and washed (2×) with an aqueous saturated solution of sodium bicarbonate, then with water and then brine. The organic layer was then dried with sodium sulfate and purified by column chromatography on silica gel using a gradient of 20-60% EtOAc in hexanes to give 3-bromo-7-chloro-2-methylthieno[2,3-c]pyridine as a yellow solid. MS (M+H)+ 263.

reactant | 3-Bromo-2-methylthieno[2,3-c]pyridine-N-Oxide | 2.05 mmol, 0.500 g | BrC1=C(SC2=C[N+](=CC=C21)[O-])C | C8H6BrNOS
reactant | phosphorous oxychloride | 10.2 mmol, 0.955 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-7-chloro-2-methylthieno[2,3-c]pyridine | BrC1=C(SC2=C(N=CC=C21)Cl)C | C8H5BrClNS
